* E:\GitHub\MCMOD-Industria\Versandordner\NGspice\Generator-Test.asc
.model Ma595ab15 sw vt=0 vh=0.001 ron=0.001 roff=10e9

I1-1l node-e3f48b0c-com 0 9.9
S1-1l node-e3f48b0c-com 0 0 node-e3f48b0c-com Ma595ab15

I1-2s N1-2s N3-2s 10.0
I2-2s N1-2s 0 10.0
V1-2s N2-2s N3-2s 96.0
S1-2s node-e3f48b0c-com N2-2s N2-2s node-e3f48b0c-com Ma595ab15
S2-2s N1-2s N3-2s N3-2s N1-2s Ma595ab15
S3-2s N1-2s 0 0 N1-2s Ma595ab15

I1-3s N1-3s N3-3s 10.0
I2-3s N1-3s 0 10.0
V1-3s N2-3s N3-3s 96.0
S1-3s node-e3f48b0c-com N2-3s N2-3s node-e3f48b0c-com Ma595ab15
S2-3s N1-3s N3-3s N3-3s N1-3s Ma595ab15
S3-3s N1-3s 0 0 N1-3s Ma595ab15

I1-2l node-e3f48b0c-com 0 9.9
S1-2l node-e3f48b0c-com 0 0 node-e3f48b0c-com Ma595ab15

* Problem mit 0V bei inaktivem motor vvv

I1-1s N1-1s N3-1s 10.0
I2-1s N1-1s 0 10.0
V1-1s N2-1s N3-1s 0.1
S1-1s node-e3f48b0c-com N2-1s N2-1s node-e3f48b0c-com Ma595ab15
S2-1s N1-1s N3-1s N3-1s N1-1s Ma595ab15
S3-1s N1-1s 0 0 N1-1s Ma595ab15







.op
.model diosw sw vt=0 vh=0.0 ron=0.0001 roff=10e9
* LT -> .model D D(Ron=0 Roff=1G Vfwd=0 Vrev=1G)
.backanno
.end
